US04057647
A solution of 3.2 g. of 1 -acetoxy-3-(2',4'-difluoro-4-biphenylyl)-3-butanol and 2 g. of NaOH in 30 ml. of 80% aqueous ethanol is heated under reflux for 3 hours. Water is added; the product is extracted with chloroform, and the extract is evaporated to give 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol, m.p. 82°-84°.

reactant | 1 -acetoxy-3-(2',4'-difluoro-4-biphenylyl)-3-butanol | C(C)(=O)OCCC(C)(O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C18H18F2O3
reactant | NaOH | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | Water | O | H2O
product | 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCO)(C)O | C16H16F2O2
